US07365196B2
Step 2. N-Tricyclo[8.2.1.03,8]trideca-3(8),4.6-trien-13-ylidene-benzenesulfonamide
Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one (130 mg, 0.70 mmol) and benzenesulfonamide (110 mg, 0.70 mmol) were mixed in toluene (6 mL). Amberlyst-15 ion exchange resin (35 mg) was added, and the mixture was heated at reflux under Dean Stark conditions for 36 h. The mixture was concentrated and the crude sulfonylimine was used directly in the next step.

reactant | Tricyclo[8.2.1.03,8]trideca-3(8),4,6-trien-13-one | 0.70 mmol, 130 mg | C12CC=3C=CC=CC3CC(CC1)C2=O | C13H14O
reactant | benzenesulfonamide | 0.70 mmol, 110 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | N-Tricyclo[8.2.1.03,8]trideca-3(8),4.6-trien-13-ylidene-benzenesulfonamide | C12CC=3C=CC=CC3CC(CC1)C2=NS(=O)(=O)C2=CC=CC=C2 | C19H19NO2S
